US04410536
1-Butyl-9-isopropyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 15, from 25.6 g of 3-butyl-5-hydrazinobenzothiophene hydrochloride and 17 g of 1-isopropyl-4-piperidone. Melting point: 157°-158° C.

reactant | 3-butyl-5-hydrazinobenzothiophene hydrochloride | 25.6 g | Cl.C(CCC)C1=CSC2=C1C=C(C=C2)NN
reactant | 1-isopropyl-4-piperidone | 17 g | C(C)(C)N1CCC(CC1)=O | C8H15NO
product | 1-Butyl-9-isopropyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(CCC)C1=CSC=2C1=C1C3=C(NC1=CC2)CCN(C3)C(C)C | C20H26N2S
